US06723722B1
4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(3-pyridyl)-4-piperidinylideneamino]-2-piperazinone
Similarly to Example 3, a solution of 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (510 mg) and 1-(3-pyridyl)-4-piperidone (260 mg) in toluene (20 ml) was refluxed for 7 hours. The reaction mixture was cooled to room temperature, and the resultant crystal was collected by filtration to obtain the title compound (480 mg) as colorless crystals.

reactant | 1-amino-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 510 mg | NN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C14H14ClN3O3S
reactant | 1-(3-pyridyl)-4-piperidone | 260 mg | N1=CC(=CC=C1)N1CCC(CC1)=O | C10H12N2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(6-Chloronaphthalene-2-sulfonyl)-1-[1-(3-pyridyl)-4-piperidinylideneamino]-2-piperazinone | 480 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)N=C1CCN(CC1)C=1C=NC=CC1)=O | C24H24ClN5O3S
